US09062032B2
To a mixture of 1.5 g of 2-(3-bromophenyl)ethanol, 1.0 g of imidazole and 15 mL of DMF was added 2.8 g of tert-butyl(chloro)diphenylsilane under ice cooling, and the followed by stirring for 1 hour at the same temperature then for a day at room temperature. Diethyl ether and water were added to the reaction mixture, followed by extraction with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3), thereby obtaining 3.27 g of [2-(3-bromophenyl)ethoxy](tert-butyl)diphenylsilane.

reactant | 2-(3-bromophenyl)ethanol | 1.5 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | imidazole | 1.0 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | tert-butyl(chloro)diphenylsilane | 2.8 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | water | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | [2-(3-bromophenyl)ethoxy](tert-butyl)diphenylsilane | 3.27 g | BrC=1C=C(C=CC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C24H27BrOSi
